US08022069B2
N-(2-{(2R,4R,5R)-4-[4-((R)-2-Ethoxy-propoxymethyl)-phenyl]-5-[4-(3-methoxy-propyl) -3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-piperdin-2-yl}-1,1-dimethyl-ethyl) -acetamide
A mixture of 1.0 mmol of 6-[(3R,4R,6R)-6-(2-isocyanato-2-methyl-propyl)-4-[4-((R)-2-ethoxy-propoxymethyl)-phenyl]-1-(toluene-4-sulfonyl)-piperidin-3-yloxymethyl]-4-(3-methoxy-propyl) -3,4-dihydro-2H-benzo[1,4]oxazine and 20.0 mmol of benzyl alcohol is heated at 115° C. for 14 h. The reaction mixture is directly purified by flash chromatography (SiO2 60 F) to afford the title compound which is identified based on its Rf value.

reactant | 6-[(3R,4R,6R)-6-(2-isocyanato-2-methyl-propyl)-4-[4-((R)-2-ethoxy-propoxymethyl)-phenyl]-1-(toluene-4-sulfonyl)-piperidin-3-yloxymethyl]-4-(3-methoxy-propyl) -3,4-dihydro-2H-benzo[1,4]oxazine | 1.0 mmol | N(=C=O)C(C[C@H]1C[C@@H]([C@H](CN1)OC(S(=O)(=O)C1=CC=C(C=C1)C)C=1C=CC2=C(N(CCO2)CCCOC)C1)C1=CC=C(C=C1)COC[C@@H](C)OCC)(C)C | C42H57N3O8S
reactant | benzyl alcohol | 20.0 mmol | C(C1=CC=CC=C1)O | C7H8O
product | N-(2-{(2R,4R,5R)-4-[4-((R)-2-Ethoxy-propoxymethyl)-phenyl]-5-[4-(3-methoxy-propyl) -3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-piperdin-2-yl}-1,1-dimethyl-ethyl) -acetamide | C(C)O[C@@H](COCC1=CC=C(C=C1)[C@H]1C[C@@H](NC[C@@H]1OCC=1C=CC2=C(N(CCO2)CCCOC)C1)CC(C)(C)NC(C)=O)C | C36H55N3O6
